US06548495B2
5-(2-Methoxymethyl-pyrrol-1-yl)-2-nitro-phenylamine
The title compound was prepared from N-(5-amino-2-nitro-phenyl)-acetamide [prepared from commercially available 5-chloro-2-nitroaniline as described in Example F6] and 2,5-dimethoxy-2-methoxymethyl-tetrahydro-furan [CAS-no. 98560-90-8] in HOAc at 60° C. for 2 h according to the general procedure F. Obtained as a light brown solid (620 mg). Deacetylation of this material was perfomed by stirring with 2 eq. 2 N NaOH-sol. in 1,4-dioxane at 60° C. for 21 h. Obtained as a yellow solid (511 mg).

reactant | N-(5-amino-2-nitro-phenyl)-acetamide | NC=1C=CC(=C(C1)NC(C)=O)[N+](=O)[O-] | C8H9N3O3
reactant | 5-chloro-2-nitroaniline | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | 2,5-dimethoxy-2-methoxymethyl-tetrahydro-furan | COC1(OC(CC1)OC)COC | C8H16O4
solvent | HOAc | CC(=O)O | C2H4O2
product | 5-(2-Methoxymethyl-pyrrol-1-yl)-2-nitro-phenylamine | COCC=1N(C=CC1)C=1C=CC(=C(C1)N)[N+](=O)[O-] | C12H13N3O3
